US07981903B2
Using General Protocol II and starting with 2,4-dichloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidine (3.0 g, 8.8 mmol) and 2-amino-5-fluorobenzamide (4.0 g, 26 mmol), 2-({2-chloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-5-fluorobenzamide was isolated as a white solid (3.05 g, 76% Yield); 1H NMR (400 MHz, DMSO-d6) δ ppm 2.36 (s, 3 H), 6.68 (d, J=4.03 Hz, 1 H), 7.42-7.50 (m, 3 H), 7.65 (dd, J=9.51, 3.11 Hz, 1 H), 7.72 (d, J=3.84 Hz, 1 H), 7.83 (s, 1 H), 7.97 (dt, J=8.65, 1.90 Hz, 2 H), 8.26 (s, 1 H), 8.30 (dd, J=9.15, 5.12 Hz, 1 H), 11.81 (s, 1 H).

reactant | 2,4-dichloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidine | 8.8 mmol, 3.0 g | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)Cl | C13H9Cl2N3O2S
reactant | 2-amino-5-fluorobenzamide | 26 mmol, 4.0 g | NC1=C(C(=O)N)C=C(C=C1)F | C7H7FN2O
product | 2-({2-chloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-5-fluorobenzamide | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)N)C=C(C=C2)F | C20H15ClFN5O3S
